US04613609
1-[2-[4-[(Methylsulfonyl)amino]phenyl]ethyl]-1H- imidazole
To a -10° C. solution of 8 g (0.064 mole) of 1-[2-(4-aminophenyl)ethyl]-1H-imidazole and 10 mL triethylamine in 200 mL of methylene chloride add 5 mL of methanesulfonyl chloride dropwise. Stir the resulting solution at -10° C. for about 30 minutes then warm to ambient temperature for about 30 minutes. Wash the reaction mixture with water. (2×100 mL). Extract with 10% aqueous sodium hydroxide (2×50 mL). The combined aqueous extracts are neutralized with ammonium chloride then extracted with methylene chloride (2×100 mL) and combined. Remove the solvent in vacuo to provide the title compound, which may be recrystallized from tetrahydrofuran.

reactant | 1-[2-(4-aminophenyl)ethyl]-1H-imidazole | 0.064 mole, 8 g | NC1=CC=C(C=C1)CCN1C=NC=C1 | C11H13N3
reactant | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-[4-[(Methylsulfonyl)amino]phenyl]ethyl]-1H- imidazole | CS(=O)(=O)NC1=CC=C(C=C1)CCN1C=NC=C1 | C12H15N3O2S
